US07776875B2
To a solution of 5-bromo-2-fluorobenzaldehyde (4.04 g, 20 mmol) (Alfa) in N,N-dimethylacetamide (30 mL) was added anhydrous K2CO3 (2.76 g, 20 mmol), and methyl 4-hydroxybenzoate (3.1 g, 20 mmol, Aldrich). The reaction mixture was heated at 170° C. for 1 h. The mixture was cooled to room temperature, diluted with ethyl acetate, washed with water, brine. The organic layer was separated, aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water, dried over MgSO4, concentrated. The residue was purified by chromatography (EtOAc:hexanes=1:8 then 1:4) to give 4-(4-bromo-2-formyl-phenoxy)-benzoic acid methyl ester as a white solid (Yield 6.4 g, 95%).

reactant | 5-bromo-2-fluorobenzaldehyde | 20 mmol, 4.04 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | K2CO3 | 20 mmol, 2.76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 4-hydroxybenzoate | 20 mmol, 3.1 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
solvent | N,N-dimethylacetamide | 30 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-bromo-2-formyl-phenoxy)-benzoic acid methyl ester | Yield 6.4 g, 95% | COC(C1=CC=C(C=C1)OC1=C(C=C(C=C1)Br)C=O)=O | C15H11BrO4
